US07517873B2
To a solution of 10.4 g (0.067 mole) of beta-alanine ethyl ester hydrochloride and 5.0 g (0.071 mole) of cyclobutanone in 200 mL of dichloromethane was added 6.1 g (0.074 mole) of sodium acetate and 21.5 g (0.101 mole) of sodium triacetoxyborohydride. The mixture was stirred at room temperature for 24 hours and then quenched by the addition of 200 mL of aqueous sodium bicarbonate. After 20 minutes, the organic layer was separated and the aqueous layer was extracted with twice with 50 mL of dichloromethane. The combined organic layers dried over anhydrous magnesium sulfate, filtered, and concentrated. Purification of the residue by silica gel chromatography, eluting with hexanes-ethyl acetate (20:80) gave 2.1 g of 3-cyclobutylamino-propanoic acid ethyl ester.

reactant | beta-alanine ethyl ester hydrochloride | 0.067 mole, 10.4 g | Cl.C(C)OC(CCN)=O
reactant | cyclobutanone | 0.071 mole, 5.0 g | C1(CCC1)=O | C4H6O
reactant | sodium acetate | 0.074 mole, 6.1 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 0.101 mole, 21.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-cyclobutylamino-propanoic acid ethyl ester | 2.1 g | C(C)OC(CCNC1CCC1)=O | C9H17NO2
